* C:\github\SprinterVanBattery\00_PROJECT_RESEARCH\SPICE\PMOS_OPEN_CKT_DETECT.asc
M1 N006 N002 24V 24V BSS84
M2 N005 N007 0 0 NMOS
R1 N006 N009 5k
D1 N009 0 QTLP690C
R2 24V N003 5k
D2 N003 N005 D
R3 Vsw N007 100
R4 N007 0 10k
R5 Vsw N002 5k
R6 N002 0 10k
V1 Vsw 0 PULSE(0 24 0 0 0 0.1 0.2 10)
V2 24V 0 24
M3 N004 N008 0 0 Si7336ADP
D3 N004 0 D
R7 24V N004 5k
R8 N008 0 5k
S1 N001 24V Vsw 0 MYSW
Rload N001 0 100
R9 N001 N008 5k
.model D D
.lib C:\Users\Admin\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Admin\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2
.model MYSW SW(Ron=0.001 Roff=1Meg Vt=5 Vh=4)
.backanno
.end
